US07514419B2
To a stirred solution of 3,5-dibromo-4-[3′-(4-fluorobenzyl)-4′-methoxyphenoxy]phenol (1.66 gm, 3.44 mmol), dichloromethane 100 mL, was added boron tribromide (8.6 mL, 8.60 mmol) in an ice/water bath. The reaction was stirred overnight under a nitrogen atmosphere. The reaction was diluted with ethyl acetate 60 mL, filtered and washed with water 2× with 10 mL and brine 3×10 mL. The ethyl acetate was dried over Na2SO4, filtered and concentrated under reduced pressure. 3,5-Dibromo-4-[3′-(4-fluorobenzyl)-4′-hydroxyphenoxy]phenol (1.06 gm, 66%) was obtained by flash chromatography using SiO2 eluted with a step gradient of hexane-ethyl acetate[3:1] 2L and hexane-ethyl acetate [3:2]; 1H NMR (300 MHz, DMSO-d6): δ 10.24 (s, 1H), 9.14 (s, 1H), 7.22 (m, 2H), 7.08 (m, 4H), 6.69 (td, J=8.7 Hz, 1H), 6.54 (d, J=3.3 Hz, 1H), 6.55 (dd, J=8.4, 3.3 Hz, 1H), 6.35 (dd, J=9, 3 Hz, 1H), 3.80 (s, 2H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=methylene chloride-hexanes (1:1); Rf=0.55.

reactant | 3,5-dibromo-4-[3′-(4-fluorobenzyl)-4′-methoxyphenoxy]phenol | 3.44 mmol, 1.66 gm | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)CC1=CC=C(C=C1)F)Br)O | C20H15Br2FO3
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | boron tribromide | 8.60 mmol, 8.6 mL | B(Br)(Br)Br | BBr3
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-Dibromo-4-[3′-(4-fluorobenzyl)-4′-hydroxyphenoxy]phenol | 1.06 gm, 66% | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F)Br)O | C19H13Br2FO3
